US08389508B2
To a solution of 4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]piperidine (D122) (108 mg, 0.244 mmol) and ethyl 4-bromobutanoate (95 mg, 0.489 mmol) in N,N-Dimethylformamide (DMF) (8 mL) was added K2CO3 (223 mg, 1.614 mmol). This solution was sealed and stirred for overnight at room temperature. To the above solution was added Isopropanol (10.00 mL) and Water (2 mL) and sodium hydroxide (0.5 mL, 3.05 mmol). The solution was sealed and stirred for 5 h at 40° C. The reaction was neutrolized by AcOH, dried and purified by Mass Directed AutoPrep to afford 4-{4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]-1-piperidinyl}butanoic acid (E102) (62 mg) as a TFA salt.

reactant | 4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]piperidine | 0.244 mmol, 108 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)C1CCNCC1)CC | C24H28ClN3OS
reactant | ethyl 4-bromobutanoate | 0.489 mmol, 95 mg | BrCCCC(=O)OCC | C6H11BrO2
reactant | K2CO3 | 1.614 mmol, 223 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium hydroxide | 3.05 mmol, 0.5 mL | [OH-].[Na+]
solvent | N,N-Dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | AcOH | CC(=O)O | C2H4O2
solvent | Water | 2 mL | O | H2O
solvent | Isopropanol | 10.00 mL | C(C)(C)O | C3H8O
product | 4-{4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]-1-piperidinyl}butanoic acid | 62 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)C1CCN(CC1)CCCC(=O)O)CC | C28H34ClN3O3S
